US07842694B2
3-{[5-(Azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide
A mixture of 3-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide (80 mg, 0.26 mmol), 2-(azetidin-1-ylcarbonyl)-5-chloropyrazine (52 mg, 0.26 mmol) and caesium carbonate (172 mg, 0.53 mmol) in acetonitrile (3 mL) was stirred in a Smith Creator microwave at 160° C. for 1 hr. The solvent was removed in vacuo and ethyl acetate (50 mL) added to the residue. The organic phase was washed with water (20 mL), brine (50 mL), dried (MgSO4), filtered and the solvent removed in vacuo to give a yellow oil which was chromatographed on silica eluting with a gradient of 0-10% methanol in DCM to give the title compound (36 mg, 31%) as a white foam. This compound was crystallised from ethyl acetate and isohexane using vapour diffusion techniques. 1H NMR δ (CDCl3): 2.12-2.19 (1H, m), 2.21-2.28 (1H, m), 2.34-2.42 (2H, m), 3.75 (3H, s), 3.88-3.93 (1H, m), 3.98-4.02 (3H, m), 4.23 (2H, t), 4.69 (2H, t), 4.95-4.97 (1H, m), 6.80 (1H, d), 6.87 (1H, t), 7.23 (1H, d), 7.27-7.30 (1H, m), 7.28-7.30 (1H, m), 8.34 (1H, d), 8.84 (1H, d), 8.98 (1H, s); m/z 465 (M+H)+.

reactant | 3-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide | 0.26 mmol, 80 mg | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@@H]1COCC1 | C15H17N3O4
reactant | 2-(azetidin-1-ylcarbonyl)-5-chloropyrazine | 0.26 mmol, 52 mg | N1(CCC1)C(=O)C1=NC=C(N=C1)Cl | C8H8ClN3O
reactant | caesium carbonate | 0.53 mmol, 172 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 3-{[5-(Azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)-5-[(3S)-tetrahydrofuran-3-yloxy]benzamide | 36 mg, 31% | N1(CCC1)C(=O)C=1N=CC(=NC1)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@@H]1COCC1 | C23H24N6O5
